US08242104B2
5-fluoro-2-(1H-imidazole-2-yl)phenol (0.90 g, 5.0 mmol) was dissolved in N,N-Dimethylformamide (40 mL, 500 mmol). Cesium carbonate (6.6 g, 20 mmol) was added, followed by 1,2-Dibromoethane (1.7 mL, 20 mmol) and heated at 90° C. with a vigreux condensation column attached for 3 hours. Complete by LCMS. Diluted with water and extracted with ethyl acetate. Acidified the aqueous layer to pH ˜5 with HCl and extracted with ethyl acetate. The combined organics were concentrated in vacuo and purified by flash chromatography on the ISCO 0-50% ethyl acetate in hexanes and concentrated in vacuo to give 9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (0.69 g, 67% yield)

reactant | 5-fluoro-2-(1H-imidazole-2-yl)phenol | 5.0 mmol, 0.90 g | FC=1C=CC(=C(C1)O)C=1NC=CN1 | C9H7FN2O
reactant | N,N-Dimethylformamide | 500 mmol, 40 mL | CN(C=O)C | C3H7NO
reactant | Cesium carbonate | 20 mmol, 6.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-Dibromoethane | 20 mmol, 1.7 mL | BrCCBr | C2H4Br2
solvent | water | O | H2O
product | 9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.69 g, 67% yield | FC1=CC2=C(C=3N(CCO2)C=CN3)C=C1 | C11H9FN2O
